US06391874B1
(4-Benzyloxy-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine
The title compound was prepared according to Procedure A from 4-benzyloxyaniline and 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.69(1H,bs), 9.53(1H,s), 8.91(1H,s), 8.65(1H,dd), 8.11(1H,d), 7.64(2H,d), 7.45(5H,m), 7.15(2H,d), 5.19(2H,s); m/z (M+1+) 464.

reactant | 4-benzyloxyaniline | C(C1=CC=CC=C1)OC1=CC=C(N)C=C1 | C13H13NO
reactant | 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C11H4ClF3N4O
product | (4-Benzyloxy-phenyl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C24H16F3N5O2
